US04743291
Step B: Synthesis of 7-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran
A solution of 0.5 gram (0.002 mole) of 7-chlorosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran and 4 ml of tetrahydrofuran was stirred and 2 ml of an aqueous solution of 29% ammonium hydroxide was added. The reaction mixture stirred for one hour, then was concentrated under reduced pressure to a residue. The residue was triturated with water and filtered to collect, when dried, 0.41 grams of 7-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran; m.p. 160.5°-162.5° C.

reactant | 7-chlorosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran | 0.002 mole, 0.5 gram | ClS(=O)(=O)C1=CC=CC=2CC(OC21)(C)C | C10H11ClO3S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 7-aminosulfonyl-2,3-dihydro-2,2-dimethylbenzofuran | NS(=O)(=O)C1=CC=CC=2CC(OC21)(C)C | C10H13NO3S
